US05811439
The same procedures used in Example 1 were repeated except for using 725 mg of indole-4-carbaldehyde and 2,5-dimethoxybenzyl methanesulfonate instead of the benzyl bromide used in Example 1 to give 940 mg of 1-(2,5-dimethoxybenzyl)indole-4-carbaldehyde as pale yellow crystals. The yield thereof was found to be 64%.

reactant | indole-4-carbaldehyde | 725 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | 2,5-dimethoxybenzyl methanesulfonate | CS(=O)(=O)OCC1=C(C=CC(=C1)OC)OC | C10H14O5S
product | 1-(2,5-dimethoxybenzyl)indole-4-carbaldehyde | 940 mg | COC1=C(CN2C=CC=3C(=CC=CC23)C=O)C=C(C=C1)OC | C18H17NO3
